*****************************************************************
* NXP BSS138BK
*
* Polarity N-Channel
* Ratings 60V/1.000000E+000OHMS/0.36A
*
* Date Created Thu Jan 26 01:03:23 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BSS138BK DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565571090143
LS SOURCE 8 1.20403224420656e-09
RLS2 SOURCE 8 3.02606308246765
RLS1 8 7 0.0247663428442233

RDS 7 4 100000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.840068671743364 TC=0.00684349677824827,1.19748269047414E-05
RBD 9 4 0.1889 TC=0.00684349677824827,1.19748269047414E-05
*initial value RBD 9 4 0.185101251889732
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 55555555.5555556
CGS 2 6 3.85e-11
RG 1 2 21.3887954920063

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	28.26
+ -10	28.31
+ -5	28.98
+ -4	29.51
+ -3	29.68
+ -2	24.89
+ -1	32.64
+ -0.5	26.37
+ -0.2	22.23
+ -0.1	20.78
+ 0	19.29
+ 0.1	17.6
+ 0.2	15.99
+ 0.5	11.94
+ 1	8.61
+ 2	6.61
+ 3	5.75
+ 4	5.2
+ 5	4.81
+ 6	4.51
+ 8	4.05
+ 10	3.74
+ 12	3.5
+ 15	3.23
+ 20	2.89
+ 30	2.49
+ 40	2.23



.MODEL MINT NMOS(Vto=1.22093816859777 Kp=1.555493e+000 Nfs=270000000000 Eta=4000
*initially Nfs=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=800)

.MODEL DBD D(Bv=67.5 Ibv=2.500000E-004 Rs=1E-6 Is=3.0700e-13
*initial value Is=6.25390581033302e-13
+ N=1 M=0.41 VJ=0.5 Fc=0.5 Cjo=1.172e-11 Tt=1.85e-08)

.ENDS

